US06699871B2
(3R)-3-[(1,1-Dimethylethoxycarbonyl)amino]-4-(2,4,5-trifluorophenyl)butanoic Acid
To a solution of 3.81 g (11.6 mmol) of (2S, 5R)-2,5-dihydro-3,6-dimethoxy-2-isopropyl-5-(2′,4′,5′trifluoro-benzyl)pyrazine in 20 mL of acetonitrile was added 20 mL of 2N hydrochloric acid. The reaction was stirred for 72 h and concentrated in vacuo. The residue was dissolved in 30 mL of dichloromethane and 10 mL (72 mmol) of triethylamine and 9.68 g (44.8 mmol) of di-tert-butyldicarbonate were added. The reaction was stirred for 16 h, diluted with ethyl acetate and washed sequentially with 1N hydrochloric acid and brine. The organic phase was dried over sodium sulfate, concentrated in vacuo and purified by flash chromatography (silica gel, 9:1 hexanes:ethyl acetate) to afford 2.41 g of the title compound. 1H NMR (500 MHz, CDCl3) δ 6.99 (m, 1H), 6.94 (m, 1H), 5.08 (m, 1H), 4.58 (m, 1H), 3.78 (m, 3H), 3.19 (m, 1H), 3.01 (m, 1H), 1.41 (s, 9H).

reactant | (2S, 5R)-2,5-dihydro-3,6-dimethoxy-2-isopropyl-5-(2′,4′,5′trifluoro-benzyl)pyrazine | 11.6 mmol, 3.81 g | COC=1[C@@H](N=C([C@H](N1)CC1=C(C=C(C(=C1)F)F)F)OC)C(C)C | C16H19F3N2O2
reactant | hydrochloric acid | 2N, 20 mL | Cl | ClH
reactant | triethylamine | 72 mmol, 10 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyldicarbonate | 44.8 mmol, 9.68 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | (3R)-3-[(1,1-Dimethylethoxycarbonyl)amino]-4-(2,4,5-trifluorophenyl)butanoic Acid | 2.41 g | CC(C)(OC(=O)N[C@@H](CC(=O)O)CC1=C(C=C(C(=C1)F)F)F)C | C15H18F3NO4
